US07939533B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 20 g (79 mmol) [6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine in 200 ml tetrahydrofuran were added dropwise at 0° C. 113 ml (94.8 mmol) of a 0.91 M solution of potassium bis(trimethylsilyl)amide in tetrahydrofuran. The reaction mixture was stirred at room temperature for 30 min. After cooling to 0° C. 27.7 g (86.9 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride were added dropwise. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 1 h. The reaction mixture was treated with 220 ml 1 N sodium hydrogencarbonate solution and extracted with three 200-ml portions of ethyl acetate. The combined organic layers were dried over sodium sulfate and triturated with 150 ml diethylether to give 34.6 g (82%) of the title compound as a white solid.

reactant | [6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine | 79 mmol, 20 g | ClC1=CC(=C(C=N1)NC)C1=C(C=CC=C1)Cl | C12H10Cl2N2
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 86.9 mmol, 27.7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | sodium hydrogencarbonate | 1 N, 220 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 34.6 g, 82% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)Cl)(C)C)(F)F | C24H18Cl2F6N2O
